US07528173B2
To a solution of 2-(4guanidinophenyl)-3-mercaptopropanoic acid ethyl ester (60 mg) in 1:1:1 water/ethanol/tetrahydrofuran at 0° C. was added LiOH (130 mg). The reaction was stirred for 18 hours, acidified to pH 2 with trifluoroacetic acid and purified by preparative HPLC to afford 2-(4-guanidinophenyl)-3-mercaptopropanoic acid, as a trifluoroacetic acid salt, (15 mg); NMR (D2O) 2.75-2.83 (dd,1), 2.98-3.05 (dd,1), 3.75-3.80 (dd,1), 7.19 (d,2), 7.32 (d,2) ppm.

reactant | 2-(4guanidinophenyl)-3-mercaptopropanoic acid ethyl ester | 60 mg | C(C)OC(C(CS)C1=CC=C(C=C1)NC(=N)N)=O | C12H17N3O2S
reactant | LiOH | 130 mg | [Li+].[OH-]
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | water ethanol tetrahydrofuran | O.C(C)O.O1CCCC1
product | 2-(4-guanidinophenyl)-3-mercaptopropanoic acid | N(C(=N)N)C1=CC=C(C=C1)C(C(=O)O)CS | C10H13N3O2S
